US06211215B1
Methanesulfonyl chloride (320 mg) was added to a solution of 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propanol (500 mg) and triethylamine (280 mg) in tetrahydrofuran (30 ml) at 0° C. and then stirred for 4 hours at room temperature. To the reaction mixture was added water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure to give 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propyl methanesulfonate (540 mg, 90%). Recrystallization from ethyl acetate-hexane gave pale yellow prisms, mp 97-98° C.

reactant | Methanesulfonyl chloride | 320 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propanol | 500 mg | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)CSC1=CC=C(C=C1)CCCO | C21H21NO2S
reactant | triethylamine | 280 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethylthio]phenyl]propyl methanesulfonate | 540 mg, 90% | CS(=O)(=O)OCCCC1=CC=C(C=C1)SCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C22H23NO4S2
